US07960552B2
To a solution of methyl 3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate (21.5 g, 84.2 mmol) in tetrahydrofuran (250 mL) at 0° C. was added a 1.5 M solution of diisobutylaluminum hydride in toluene (185 mL, 278 mmol) slowly. The solution was allowed to warm slowly to ambient temperature overnight then was re-cooled to 0° C. and approximately 250 mL of Rochelle's salt was added dropwise followed by approximately 300 mL of ethyl acetate. An additional 250 mL of Rochelle's salt and 500 mL of ethyl acetate were added and the mixture was stirred at 0° C. for approximately 20 minutes and then at ambient temperature for approximately 4 hours. The mixture was filtered. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, concentrated, and purified by chromatography (silica gel, 20% ethyl acetate in hexanes) to afford [3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methanol (15.2 g, 91%). 1H-NMR (400 MHz, DMSO-d6) δ 4.76 (t, J=5 Hz, 1H), 4.39 (s, 2H), 4.32 (d, J=5 Hz, 2H), 3.24 (septet, J=7 Hz, 1H), 1.21 (d, J=7 Hz, 6H), 1.18 (s, 9H).

reactant | methyl 3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolecarboxylate | 84.2 mmol, 21.5 g | CC(C)(C)OCC1=NOC(=C1C(=O)OC)C(C)C | C13H21NO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 278 mmol, 185 mL | C1(=CC=CC=C1)C | C7H8
reactant | Rochelle's salt | approximately 250 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | Rochelle's salt | 250 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | approximately 300 mL | C(C)(=O)OCC | C4H8O2
product | [3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methanol | 15.2 g, 91% | CC(C)(C)OCC1=NOC(=C1CO)C(C)C | C12H21NO3
